US09388189B2
(S)-2-(1-((5-(4-Hydroxy-3-methoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(4-Hydroxy-3-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (63 mg, 0.10 mmol) was treated with trifluoroacetic acid (1.26 ml, 16.36 mmol) and a solution of ammonia (7N in methanol, 1.26 ml, 8.82 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (0% to 6% n-hexane-ethyl acetate) to obtain 23 mg (46% yield) of the title compound.

reactant | (S)-2-(1-((5-(4-Hydroxy-3-methoxyphenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.10 mmol, 63 mg | OC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)OC | C34H39N7O4Si
reactant | trifluoroacetic acid | 16.36 mmol, 1.26 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 8.82 mmol, 7N, 1.26 ml | N | H3N
product | (S)-2-(1-((5-(4-Hydroxy-3-methoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 23 mg, 46% yield | OC1=C(C=C(C=C1)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)OC | C28H25N7O3
